2132-05-19 13:14:00 Physician Attending Progress Note
Chief Complaint: alcohol withdrawl
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   haldol overnight to good effect
   plt coming up
   Allergies:
   Penicillins
   Rash;
   Amoxicillin
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2132-5-16**] 11:50 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2132-5-19**] 02:00 AM
   Other medications:
   MVI folate thiamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-5-19**] 01:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.5
   HR: 83 (68 - 128) bpm
   BP: 138/91(102) {103/63(73) - 146/126(129)} mmHg
   RR: 22 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,399 mL
                                                                  1,559 mL
   PO:
                                                                    740 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  1,539 mL
                                                                  1,309 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                  1,800 mL
   Urine:
                                                                  2,550 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -151 mL
                                                                   -241 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
    Gen: conversant NAD
   HEENT: o/p clear
   CV: RR
   Chest: CTA
   Abd: soft +BS
   Ext: no edema
   Neuro: appropriate but some tremulous lower extremities
   Labs / Radiology
   13.4 g/dL
   52 K/uL
   133 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.8 mEq/L
   6 mg/dL
   104 mEq/L
   138 mEq/L
   38.0 %
   4.4 K/uL
        [image002.jpg]
                             [**2132-5-16**]  10:39 PM
                             [**2132-5-17**]  05:57 AM
                             [**2132-5-17**]  01:00 PM
                             [**2132-5-17**]  05:30 PM
                             [**2132-5-17**]  10:19 PM
                             [**2132-5-18**]  05:34 AM
                             [**2132-5-18**]  05:00 PM
                             [**2132-5-19**]  03:14 AM
   WBC
   2.6
   2.7
   3.5
   3.0
   4.4
   Hct
   35.4
   38.7
   41.8
   40.4
   38.9
   42.5
   38.0
   Plt
   40
   36
   32
   40
   37
   37
   52
   Cr
   0.6
   0.7
   0.6
   0.6
   0.6
   0.6
   0.6
   Glucose
   88
   77
   71
   110
   77
   133
   Other labs: PT / PTT / INR:12.9/28.9/1.1, CK / CKMB / Troponin-T:142//,
   ALT / AST:156/201, Alk Phos / T Bili:119/2.9, Lactic Acid:1.2 mmol/L,
   Albumin:3.6 g/dL, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 TOBACCO USE, CURRENT
 ELECTROLYTE & FLUID DISORDER, OTHER
   ETOH withdrawl: able to wean CIWA and only Valium x 2 in 12 hours,
   however he did get Haldol 2.5 x 3 overnight for more agitation symptoms
   as opposed to CIWA so bears close monitoring.
   DC IVF
   SW consult
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-5-18**] 04:11 AM
   Prophylaxis:
   DVT: OOB
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: